US08106064B2
2,4-Dichloro-6-(3-[1,3]dioxolan-2-yl-5-methyl-phenoxy)-5-isopropyl-pyrimidine (119):
A mixture of 3-(2,6-dichloro-5-isopropyl-pyrimidin-4-yloxy)-5-methyl-benzaldehyde (1.71 g, 5.25 mmol), ethylene glycol (0.88 ml, 15.75 mmol), and p-toluenesulfonic acid (263 mg, 0.26 mmol) in toluene (20 ml) was refluxed for 3 hr., using a reflux condenser equipped with a Dean-Stark trap. After cooling to room temperature, the mixture was diluted with EA, washed with aqueous saturated sodium bicarbonate solution, dried with anhydrous magnesium sulfate, filtered, and evaporated in vacuo. The residue was purified by silica gel column chromatography (eluent, EA:hexanes (1:15)) to afford 1.79 g (92%) of a colorless syrup. 1H NMR (200 MHz, CDCl3) δ 1.40 (6H, d, J=7.0 Hz), 2.40 (3H, s), 3.58 (1H, m), 3.99-4.16 (4H, m), 5.82 (1H, s), 6.92 (1H, s), 7.03 (1H, s), 7.21 (1H, s).

reactant | 3-(2,6-dichloro-5-isopropyl-pyrimidin-4-yloxy)-5-methyl-benzaldehyde | 5.25 mmol, 1.71 g | ClC1=NC(=C(C(=N1)OC=1C=C(C=O)C=C(C1)C)C(C)C)Cl | C15H14Cl2N2O2
reactant | ethylene glycol | 15.75 mmol, 0.88 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 0.26 mmol, 263 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | EA | CC(OCC)=O | C4H8O2
product | 2,4-Dichloro-6-(3-[1,3]dioxolan-2-yl-5-methyl-phenoxy)-5-isopropyl-pyrimidine | 1.79 g, 92% | ClC1=NC(=C(C(=N1)Cl)C(C)C)OC1=CC(=CC(=C1)C)C1OCCO1 | C17H18Cl2N2O3
